US09085555B2
(2S,4S)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-4-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution (3S,5S)-5-(3-chloro-2-fluoro-benzylcarbamoyl)-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (550 mg, 1.33 mmol) in THF (6 mL) was added lithium borohydride (2 M in THF, 1.46 mL, 2.92 mmol) at RT and the mixture was further stirred for 2 h under N2 atmosphere. After completion brine and CH2Cl2 were added, the layers were separated and the aqueous one re-extracted with CH2Cl2. The combined organic layers were dried (MgSO4), filtered and concentrated. The crude was purified by flash column chromatography on silica gel (eluent: EtOAc) to give the desired material. MS (LC/MS): 409.1 [M+Na]+, 287.0 [MH−Boc]+, 385.1 [M−H]−; tR (HPLC conditions f): 1.82 min.

reactant | (3S,5S)-5-(3-chloro-2-fluoro-benzylcarbamoyl)-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 1.33 mmol, 550 mg | COC(=O)[C@@H]1CN([C@@H](C1)C(NCC1=C(C(=CC=C1)Cl)F)=O)C(=O)OC(C)(C)C | C19H24ClFN2O5
reactant | lithium borohydride | 2.92 mmol, 2 M, 1.46 mL | [BH4-].[Li+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | (2S,4S)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-4-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)CO)C(NCC1=C(C(=CC=C1)Cl)F)=O | C18H24ClFN2O4
